US07056917B2
(D) Ethyl 3-[2-(4-methoxybenzyl)-2 H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxylate
Ethyl 2-aminoisonicotinate (6.5 g, 39.23 mmol) was added with acetic acid (500 ml) and ethyl 3-(dimethylamino)-2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-2-propenoate (13 g, 39.23 mmol) and refluxed by heating at 130° C. for 5 hours. The reaction solution was returned to room temperature and poured into water, and this was extracted with chloroform. The resulting organic layer was washed with saturated brine, and the collected organic layer was dried over magnesium sulfate. The organic layer was concentrated under reduced pressure and subjected to azeotropy with toluene, and the resulting residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=80:1→50:1→30:1) to obtain 8.6 g of the title compound.

reactant | Ethyl 2-aminoisonicotinate | 39.23 mmol, 6.5 g | NC=1C=C(C(=O)OCC)C=CN1 | C8H10N2O2
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 3-(dimethylamino)-2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-2-propenoate | 39.23 mmol, 13 g | CN(C=C(C(=O)OCC)C=1N=NN(N1)CC1=CC=C(C=C1)OC)C | C16H21N5O3
solvent | water | O | H2O
product | Ethyl 3-[2-(4-methoxybenzyl)-2 H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]-pyrimidine-8-carboxylate | 8.6 g | COC1=CC=C(CN2N=C(N=N2)C2=CN=C3N(C2=O)C=CC(=C3)C(=O)OCC)C=C1 | C20H18N6O4
